US07687515B2
D: 1-Ethyl-6-(3-trifluoromethyl-phenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile:
To a stirring solution of 6-(3-trifluoromethyl-phenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile (50 mg, 0.17 mmol) in acetonitrile (1 ml) was added cesium carbonate (62 mg, 0.19 mmol) and iodoethane (15 μl, 0.19 mmol). The resulting suspension was stirred at room temperature overnight. Reaction mixture was diluted with dichloromethane (5 ml) and water (5 ml) and filtered through a hydrophobic frit and concentrated in vacuo. Residual orange oil was triturated with ether (5 ml) and resulting precipitate was filtered and dried to give the title compound as a pale yellow solid (4 mg). 1H NMR (MeOD): δ 8.56 (s, 1H), 8.52 (s, 1H), 8.46 (s, 1H), 8.41 (d, 1H), 7.71-7.74 (m, 2H), 4.46-4,51 (q, 2H), 1.57-1.61 (t, 3H). MS m/z 317.0 (M+1).

reactant | 6-(3-trifluoromethyl-phenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile | 0.17 mmol, 50 mg | FC(C=1C=C(C=CC1)C1=CC2=C(C(=N1)C#N)N=CN2)(F)F | C14H7F3N4
reactant | cesium carbonate | 0.19 mmol, 62 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodoethane | 0.19 mmol, 15 μl | ICC | C2H5I
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | water | 5 ml | O | H2O
product | 1-Ethyl-6-(3-trifluoromethyl-phenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile | 4 mg | C(C)N1C=NC=2C(=NC(=CC21)C2=CC(=CC=C2)C(F)(F)F)C#N | C16H11F3N4
